US05616586
9-Bromo-5-[(1 S)-1-methoxycarbonyl-2-phenylethylcarbamoyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.92 mmol) and (L)-phenylalanine methyl ester hydrochloride (215 mg, 1.0 mmol) to give 390 mg of a diastereomeric mixture of the title compound (87%): mp 170°~174° C. The mixture (300 mg) was separated by preparative thin layer silica gel chromatography with 1% acetic acid/ethyl acetate to give 110 mg of the less polar product and 120 mg of the more polar product. Less polar product: 1H NMR (270 MHz, DMSO-d6) δ12.12 (s, 1H), 8.59 (d, 1H, J=7.6 Hz), 7.06~7.26 (m, 7H), 5.14~5.22 (m, 1H), 4.40~4.51 (m, 1H), 3.58 (s, 3H), 3.03 (dd, 1H, J=13.5, 4.5 Hz), 2.89 (dd, 1H, J=13.5, 9 Hz), 2.64 (dm, 1H, J=16.8 Hz), 2.37 (dm, 1H, J=12.6 Hz), 2.14~2.28 (m, 1H), 1.78~1.93 (m, 1H). More polar product: 1H NMR (270 MHz, DMSO-d6) δ12.14 (s, 1H), 8.77 (d, 1H, J=7.6 Hz), 7.19~7.34 (m, 5H), 7.15 (d, 1H, J=2 Hz), 7.06 (d, 1H, J=2Hz), 5.13~5.18 (m, 1H), 4.47~4.58 (m, 1H), 3.63 (s, 3H), 3.10 (dd, 1H, J=13.5, 5.4 Hz), 2.85 (dd, 1H, J =13.5, 9.9 Hz), 2.44~2.56 (m, 1H), 2.10 (dm, 1H, J=12.6 Hz), 1.75~2.02 (m, 2H).

reactant | 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.92 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(=O)O | C12H9BrN2O4
reactant | (L)-phenylalanine methyl ester hydrochloride | 1.0 mmol, 215 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
product | 9-Bromo-5-[(1 S)-1-methoxycarbonyl-2-phenylethylcarbamoyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 87% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(N[C@@H](CC2=CC=CC=C2)C(=O)OC)=O | C22H20BrN3O5
